US08492559B2
Stage 4: 2-(6-(7-Methyl-1-oxoisoindolin-2-yl)-1H-indol-1-yl)acetic acid
NaOH (1.86 mmol, 1.3 equiv.), dissolved in water (6 ml), was added to a solution of ethyl 2-(6-(7-methyl-1-oxoisoindolin-2-yl)-1H-indol-1-yl)acetate (1.44 mmol, 1 equiv.) in THF/MeOH (1:1, 5 ml), and the mixture was stirred for 2 h at 25° C. The reaction solution was concentrated under reduced pressure, and the aqueous residue was adjusted to pH 3 with 1 M HCl and extracted with ethyl acetate (3×50 ml). The combined organic phases were dried over Na2SO4 and concentrated under reduced pressure. Yield: quantitative

reactant | NaOH | 1.86 mmol, 1.3 equiv. | [OH-].[Na+]
reactant | ethyl 2-(6-(7-methyl-1-oxoisoindolin-2-yl)-1H-indol-1-yl)acetate | 1.44 mmol, 1 equiv. | CC=1C=CC=C2CN(C(C12)=O)C1=CC=C2C=CN(C2=C1)CC(=O)OCC | C21H20N2O3
solvent | water | 6 ml | O | H2O
solvent | THF MeOH | 5 ml | C1CCOC1.CO
product | 2-(6-(7-Methyl-1-oxoisoindolin-2-yl)-1H-indol-1-yl)acetic acid | Yield: quantitative | CC=1C=CC=C2CN(C(C12)=O)C1=CC=C2C=CN(C2=C1)CC(=O)O | C19H16N2O3
